### PR TITLE
feat: specialize rational root theorem to usual rational numbers and integers

### PR DESCRIPTION
**Pull request by LessnessRandomness**
Rational root theorem and integral root theorem - the special case for usual rational numbers and integers.

---

### CODE REVIEW

**Comment by grunweg** [comment]
Hello @mariainesdff, on behalf of the [reviewer auto-assignment algorithm](https://github.com/leanprover-community/queueboard/blob/c14ec731bf62c8ca462609091b1345c5b9fece17/suggested_assignments.json), I'm assigning this PR to you.

**Comment by Pazzaz** [comment]
The arguments `n ∈ p.roots` and `r ∈ (p.map (Int.castRingHom ℚ)).roots` require `p` to be nonzero, but the conclusions are true even when p is zero. Maybe they should use `IsRoot` instead?

**Comment by mariainesdff** [comment]
Could you explain why you want to add this specialized version of the theorem to Mathlib? Could you instead use the existing version in your application?

**Comment by Pazzaz** [comment]
I think the missing part is just converting between `IsFractionRing.num` vs `Rat.num` and `IsFractionRing.den` vs `Rat.den`, as follows: 
```lean
import Mathlib

lemma IsFractionRing_rat_num_den (q : ℚ)
  : (IsFractionRing.num ℤ q) = q.num ∧ (IsFractionRing.den ℤ q) = (q.den : ℤ)
  ∨ -(IsFractionRing.num ℤ q) = q.num ∧ -(IsFractionRing.den ℤ q) = (q.den : ℤ)
  := by
    have div_eq : (IsFractionRing.num ℤ q) / (IsFractionRing.den ℤ q) = q := by
      trans IsLocalization.mk' ℚ (IsFractionRing.num ℤ q) (IsFractionRing.den ℤ q)
      · norm_num
      exact IsFractionRing.mk'_num_den ℤ q
    have ne_zero : (IsFractionRing.den ℤ q : ℤ) ≠ 0
      := nonZeroDivisors.coe_ne_zero (IsFractionRing.den ℤ q)

    refine (lt_or_gt_of_ne ne_zero.symm).imp ?_ ?_
    all_goals
    · intro aa
      refine Rat.div_int_inj (by omega) (by positivity) ?_ q.reduced ?_
      · norm_num
        exact Int.isCoprime_iff_nat_coprime.mp <| (IsFractionRing.num_den_reduced ℤ q).isCoprime
      · norm_num [Rat.num_div_den q, div_eq]

lemma IsFractionRing_rat_den_natAbs (q : ℚ) : ((IsFractionRing.den ℤ q) : ℤ).natAbs = q.den := by
  rcases IsFractionRing_rat_num_den q with ⟨_, hh⟩ | ⟨_, hh⟩
  <;> simpa using congrArg Int.natAbs hh

lemma IsFractionRing_rat_num_natAbs (q : ℚ) : ((IsFractionRing.num ℤ q) : ℤ).natAbs = q.num.natAbs := by
  rcases IsFractionRing_rat_num_den q with ⟨hh, _⟩ | ⟨hh, _⟩
  <;> simpa using congrArg Int.natAbs hh
```

Then one can easily use the general theorems
```lean
open Polynomial

lemma num_dvd_of_is_root_standard_case {p : ℤ[X]} {r : ℚ}
  (H : p.aeval r = 0) :
  r.num ∣ (p.coeff 0) := by
    simpa [←Int.natAbs_dvd_natAbs, IsFractionRing_rat_num_natAbs r] using num_dvd_of_is_root H


lemma den_dvd_of_is_root_standard_case {p : ℤ[X]} {r : ℚ}
  (H : p.aeval r = 0) :
  r.den ∣ p.leadingCoeff.natAbs := by
    simpa [←Int.natAbs_dvd_natAbs, IsFractionRing_rat_den_natAbs r] using den_dvd_of_is_root H

```

File: Mathlib/RingTheory/Polynomial/OfRationalNumbers/RationalRootTheorem.lean [hunk 1]
```diff
@@ -0,0 +1,122 @@
...
+  · simp [Int.sign_eq_one_iff_pos.mpr H2]
+
+/-- **Integral root theorem** -/
+theorem root_dvd_of_is_root_of_monic_standard_case {p : ℤ[X]} {n: ℤ}
+    (H : p.Monic) (H0 : n ∈ p.roots) :
+    n.natAbs ∣ (p.coeff 0).natAbs := by
+  have H1 : (n : ℚ) ∈ (p.map (Int.castRingHom ℚ)).roots := by
+    simp only [mem_roots', ne_eq, IsRoot.def] at H0
+    simp [map_monic_ne_zero H, H0.2]
+  have H2 : (n : ℚ).num = n := by rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/OfRationalNumbers/RationalRootTheorem.lean:106]: There should be a lemma for this

File: Mathlib/RingTheory/Polynomial/OfRationalNumbers/RationalRootTheorem.lean [hunk 2]
```diff
@@ -0,0 +1,122 @@
...
+## References
+
+ * https://en.wikipedia.org/wiki/Rational_root_theorem
+-/
+
+open Polynomial
+
+lemma rat_as_divInt_in_fraction_ring (r : ℚ) :
+    r = Rat.divInt (IsFractionRing.num ℤ r : ℤ) (IsFractionRing.den ℤ r : ℤ) := by
+  nth_rw 1 [<- IsFractionRing.mk'_num_den ℤ r]
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/OfRationalNumbers/RationalRootTheorem.lean:32]: Please use `←` throughout

**Comment by LessnessRandomness** [comment]
Hello, I managed to catch flu or something like that. Apologies for lack of any reaction until now.

**Comment by LessnessRandomness** [comment]
Yes, I could have used the Mathlib's more general theorems. I'm going to close this PR.

Still, I believe that there should be something, don't know, blog post that contains necessary stuff to use it on rational numbers and integers. Probably what @Pazzaz commented.
